US06432963B1
A 147 mg portion of potassium cyanate and 450 μl of 4 M hydrochloric acid-dioxane solution were added to a mixture of 312 mg of 2-(2-aminoethylamino)-4-(3-methylanilino)pyrimidine-5-carboxamide and 3 ml of water and 3 ml of 1,4-dioxane, followed by stirring at room temperature for 1 day. The reaction mixture was alkalified by adding 1 M sodium hydroxide aqueous solution, and the thus formed precipitate was collected by filtration. The filtered material was washed by stirring it in methanol while heating and then collected by filtration to obtain 212 mg of 4-(3-methylanilino)-2-[(2-ureidoethyl)amino]pyrimidine-5-carboxamide (colorless solid).

reactant | potassium cyanate | [O-]C#N.[K+]
reactant | hydrochloric acid dioxane | 4 M, 450 μl | Cl.O1CCOCC1
reactant | 2-(2-aminoethylamino)-4-(3-methylanilino)pyrimidine-5-carboxamide | 312 mg | NCCNC1=NC=C(C(=N1)NC1=CC(=CC=C1)C)C(=O)N | C14H18N6O
reactant | sodium hydroxide | 1 M | [OH-].[Na+]
solvent | 1,4-dioxane | 3 ml | O1CCOCC1 | C4H8O2
solvent | water | 3 ml | O | H2O
product | 4-(3-methylanilino)-2-[(2-ureidoethyl)amino]pyrimidine-5-carboxamide | 212 mg | CC=1C=C(NC2=NC(=NC=C2C(=O)N)NCCNC(=O)N)C=CC1 | C15H19N7O2
